US07659394B2
2-[(2-Hydroxymethyl-phenoxy)-phenyl-methyl]-morpholine-4-carboxylic acid tert-butyl ester (0.44 g) was taken up in THF (10 mL) and placed in a room temperature bath for the addition of NaH (0.05 g). The mixture was stirred for 10 min, and then MeI (0.17 g) was added and stirred at room temperature for 3 h. The mixture was again treated with NaH and MeI and stirred at room temperature for 48 h. Starting material was still present, so the mixture was treated with NaH. MeI was passed through a plug of basic alumina and then added. After 3 h, the reaction was carefully quenched by the addition of water. The mixture was extracted with ether (3×30 ml), and the organics were combined, washed with brine (1×20 ml), dried over MgSO4, filtered and concentrated. The colorless oil was taken up in DCM and pumped onto silica and then purified by MPLC (Hexane:EtOAc 95:5 to 40:60). Fractions containing the desired product were combined and concentrated to give 0.317 g of Preparation of 2-[(2-Methoxymethyl-phenoxy)-phenyl-methyl]-morpholine-4-carboxylic acid tert-butyl ester (70% yield).

reactant | 2-[(2-Hydroxymethyl-phenoxy)-phenyl-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 0.44 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C(C1=CC=CC=C1)OC1=C(C=CC=C1)CO | C23H29NO5
reactant | NaH | 0.05 g | [H-].[Na+]
reactant | MeI | 0.17 g | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(2-Methoxymethyl-phenoxy)-phenyl-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 70% yield | C(C)(C)(C)OC(=O)N1CC(OCC1)C(C1=CC=CC=C1)OC1=C(C=CC=C1)COC | C24H31NO5
